US08497264B2
A vial was charged with 2,2-dimethylpropan-1-ol (100 mg, 1.130 mmol) and DMSO (1130 μL). Sodium hydride (60% in mineral oil; 45.2 mg, 1.130 mmol) was added. The vial was placed in a 100° C. oil bath for 5 min. the reaction mixture was cooled to room temperature and (S)-7-bromo-3-chloro-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (86 mg, 0.226 mmol) was added in one portion. The vial was sealed and heated in a 100° C. oil bath for 2 h. The mixture was cooled to room temperature, then diluted with water and EtOAc. Brine was added, and the layers were separated. The aq. layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, and concentrated. The residue was purified by chromatography (0-100% EtOAc/Hexane) to give (S)-7-bromo-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine as a light-yellow solid.

reactant | 2,2-dimethylpropan-1-ol | 1.130 mmol, 100 mg | CC(CO)(C)C | C5H12O
reactant | DMSO | 1130 μL | CS(=O)C | C2H6OS
reactant | Sodium hydride | 1.130 mmol, 45.2 mg | [H-].[Na+]
reactant | (S)-7-bromo-3-chloro-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.226 mmol, 86 mg | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)N)Cl | C15H11BrClN3O2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Brine | [Cl-].[Na+].O
product | (S)-7-bromo-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)N)OCC(C)(C)C | C20H22BrN3O3
